US05130309
3-[2-(4-Nitrophenoxy)ethyl]-1-(1-phenylethyl)azetidine
The title compound is prepared according to the procedures of Example 3 from 1-(1-phenylethyl)-3-azetidine ethanol and 4-nitrophenol.

reactant | 1-(1-phenylethyl)-3-azetidine ethanol | C1(=CC=CC=C1)C(C)N1CC(C1)CCO | C13H19NO
reactant | 4-nitrophenol | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
product | 3-[2-(4-Nitrophenoxy)ethyl]-1-(1-phenylethyl)azetidine | [N+](=O)([O-])C1=CC=C(OCCC2CN(C2)C(C)C2=CC=CC=C2)C=C1 | C19H22N2O3
